US09359362B2
(rac)-7-[4-Cyano-2-(methylsulfonyl)phenyl]-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile
Under an atmosphere of argon protective gas, (rac)-7-[4-cyano-2-(methylsulfonyl)phenyl]-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile (600 mg, 1.2 mmol) was stirred in abs. dichloromethane (50 ml) with molecular sieve (0.5 g, 4 Å) for 15 min 3-(Trifluoromethyl)phenylboronic acid (704 mg, 3.7 mmol, 3 eq.) was added together with anhydrous copper(II) acetate (673 mg, 3.7 mmol, 3 eq.). Abs. pyridine (60 ml) and triethylamine (571 μl, 3.7 mmol, 3 eq.) were then added, and the mixture was stirred for 12 h. 2,6-Lutidine (864 μl, 7.4 mmol, 6 eq.) was then added, and the reaction mixture initially stirred under an atmosphere of dry air for 12 h and then left under an atmosphere of argon for 3 d. More 3-(trifluoromethyl)phenylboronic acid (235 mg, 1.2 mmol, 1 eq.), anhydrous copper(II) acetate (225 mg, 1.2 mmol, 1 eq.), 2,6-lutidine (432 μl, 3.7 mmol, 3 eq.) and a catalytic amount (spatula tip) of activated copper were then added, and the mixture was stirred under an atmosphere of dry air for 5 d. The reaction mixture was then concentrated to dryness, and the residue was applied to silica gel using dichloromethane (˜50 ml) to silica gel and purified by flash chromatography (silica gel; mobile phase: cyclohexane/ethyl acetate 1:2). The product was obtained as a solid (102 mg, 13.1% of theory).

reactant | (rac)-7-[4-cyano-2-(methylsulfonyl)phenyl]-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | 1.2 mmol, 600 mg | C(#N)C1=CC(=C(C=C1)C1C(=C(NC=2N1N=C(N2)N2C(C1=CC=CC=C1C2=O)=O)C)C#N)S(=O)(=O)C | C23H15N7O4S
reactant | 3-(Trifluoromethyl)phenylboronic acid | 3.7 mmol, 704 mg, 3 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | triethylamine | 3.7 mmol, 571 μl, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | 2,6-Lutidine | 7.4 mmol, 864 μl, 6 eq. | N1=C(C=CC=C1C)C | C7H9N
reactant | 3-(trifluoromethyl)phenylboronic acid | 1.2 mmol, 235 mg, 1 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | 2,6-lutidine | 3.7 mmol, 432 μl, 3 eq. | N1=C(C=CC=C1C)C | C7H9N
catalyst | copper(II) acetate | 3.7 mmol, 673 mg, 3 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper(II) acetate | 1.2 mmol, 225 mg, 1 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper | [Cu] | Cu
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (rac)-7-[4-Cyano-2-(methylsulfonyl)phenyl]-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | C(#N)C1=CC(=C(C=C1)C1C(=C(N(C=2N1N=C(N2)N2C(C1=CC=CC=C1C2=O)=O)C2=CC(=CC=C2)C(F)(F)F)C)C#N)S(=O)(=O)C | C30H18F3N7O4S
